US06576643B2
d) (S)-10,11-Dihydro-3-[3-[4-(dimethylamino)pyridin-2-ylamino-]1-propyloxy]-5 H-dibenzo[a,d]cycloheptene-10-acetic Acid
According to the procedure of Example 13 (c), except substituting ethyl (S)-10,11-dihydro-3-[3-[4-(dimethylamino)pyridin-2-ylamino]-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate for the ethyl (S)-10,11-dihydro-3-[3-(4-methylpyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate, the title compound was obtained as white powder: MS (ES) 446.2 (M+H)+. Anal. Calcd for C27H31N3O3.0.5 H2O. 1.0 HCl: C, 66.04; H, 6.77; N, 8.56. Found: C, 65.96; H, 6.60; N, 8.26.

reactant | ethyl (S)-10,11-dihydro-3-[3-[4-(dimethylamino)pyridin-2-ylamino]-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | CN(C1=CC(=NC=C1)NCCCOC=1C=CC2=C(CC3=C([C@@H](C2)CC(=O)OCC)C=CC=C3)C1)C | C29H35N3O3
reactant | ethyl (S)-10,11-dihydro-3-[3-(4-methylpyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | CC1=CC(=NC=C1)NCCCOC=1C=CC2=C(CC3=C([C@@H](C2)CC(=O)OCC)C=CC=C3)C1 | C28H32N2O3
product | (S)-10,11-Dihydro-3-[3-[4-(dimethylamino)pyridin-2-ylamino-]1-propyloxy]-5 H-dibenzo[a,d]cycloheptene-10-acetic Acid | CN(C1=CC(=NC=C1)NCCCOC=1C=CC2=C(CC3=C([C@@H](C2)CC(=O)O)C=CC=C3)C1)C | C27H31N3O3
